US07425557B2
Using the procedure described above in Example 139, reaction of (2-aminoethyl)[4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]methylamine and 2-chloro-5-cyanopyridine were reacted to afford [4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]methyl {2-[(5-cyano(2-pyridyl))amino]ethyl}amine.

reactant | (2-aminoethyl)[4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]methylamine | NCCNCC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C=1NC=CN1 | C16H16Cl2N6
reactant | 2-chloro-5-cyanopyridine | ClC1=NC=C(C=C1)C#N | C6H3ClN2
product | [4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]methyl {2-[(5-cyano(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)CNCCNC1=NC=C(C=C1)C#N | C22H18Cl2N8
